US08048887B2
4-Fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate
To a white suspension of 4-fluoro-2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide (64 mg, 0.211 mmol) in CH2Cl2 (2 mL) at r.t. under N2 was added triethylamine (0.059 mL, 0.422 mmol). The mixture was cooled to 0° C., and then added 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (113 mg, 0.317 mmol). The mixture was then stirred at r.t. (the white suspension turned into a light yellow solution after stirring for about 10 min) for 2 hours 35 min. The mixture was left standing at r.t. overnight, and then evaporated. The residue was cooled in an ice-water bath, added with 2 ml H2O. The solids were filtered and washed with 3×2 ml H2O, and dried (94 mg). 1H NMR (500 MHz, CD3OD) δ 7.95 (m, 2H), 7.59 (dd, J=9.00, 1.00, 1H), 7.50 (dd, J=9.00, 7.50, 1H), 7.30 (t, J=8.55, 2H), 2.99 (s, 3H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=436.04, HPLC Rt=1.678 min.

reactant | 4-fluoro-2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | 0.211 mmol, 64 mg | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)O | C16H11F2NO3
reactant | triethylamine | 0.422 mmol, 0.059 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.317 mmol, 113 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1F)(F)F | C17H10F5NO5S
